US05462942
2-(2-(4-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-1-piperazinyl)-ethyl)-1,2-benzisothiazole-3(2H)-one-1,1-dioxide, hydrochloride
To a stirred suspension of sodium hydride (0.31 g, 13 mmol) in 12 ml of dry DMF was added saccharin (2.29 g, 13 mmol) in 12 ml of dry DMF. Stirring was continued for 10 minutes before 1-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine (4.12 g, 13 mmol) (which can be obtained as described in EP-A-0190472) in 20 ml of dry DMF was added. The reaction mixture was heated under a nitrogen atmosphere for 7 hours, cooled down and extracted with ethylacetate (3×100 ml). The combined organic layers were washed with 5% NaHCO3, brine, dried and the solvent was removed in vacuo. The crude product was purified by flash column chromatography (silicagel/acetone:hexane=1:3) and the so-obtained free base was converted to its hydrochloride salt. Yield 3.13 g, (50%), m.p. 267°-70° C.

reactant | sodium hydride | 13 mmol, 0.31 g | [H-].[Na+]
reactant | saccharin | 13 mmol, 2.29 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | 1-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-4-(2-chloroethyl)piperazine | 13 mmol, 4.12 g | ClC=1C=C(C2=C(OCCO2)C1)N1CCN(CC1)CCCl | C14H18Cl2N2O2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(2-(4-(7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl)-1-piperazinyl)-ethyl)-1,2-benzisothiazole-3(2H)-one-1,1-dioxide, hydrochloride | Cl.ClC=1C=C(C2=C(OCCO2)C1)N1CCN(CC1)CCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | InChI=1S/C21H22ClN3O5S.ClH/c22-15-13-17(20-18(14-15)29-11-12-30-20)24-8-5-23(6-9-24)7-10-25-21(26)16-3-1-2-4-19(16)31(25,27)28;/h1-4,13-14H,5-12H2;1H
